US07947851B2
Step a) Formation of 2,2-dimethyl-4-oxo-4H-1,3-benzodioxine-6-carbaldehyde
A suspension of 5-formylsalicylic acid (Aldrich, 4.12 g, 24.8 mmol) in TFA (30 ml), TFAA (10 ml) and acetone (10 ml) was heated at 90° C. overnight. The reaction mixture was concentrated under reduced pressure. The residual oil was taken up in EtOAc and washed with a saturated aqueous solution of NaHCO3 and brine. The organic layer was dried- over MgSO4 and the solvent was removed under reduces pressure. The crude product was purified by flash chromatography on silicagel (EtOAc/c-Hex (80/20)) to give 1.8 g (35%) of the title compound as a white powder. 1H NMR (CDCl3) δ: 1.80 (s, 6H), 7.09 (d, J=8.7 Hz, 1H), 8.09 (dd, J=8.7, 2.3 Hz, 1H), 8.45 (d, J=1.9 Hz, 1H).

reactant | 5-formylsalicylic acid | 24.8 mmol, 4.12 g | C(=O)C1=CC=C(C(C(=O)O)=C1)O | C8H6O4
reactant | acetone | 10 ml | CC(=O)C | C3H6O
solvent | TFA | 30 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | TFAA | 10 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
product | 2,2-dimethyl-4-oxo-4H-1,3-benzodioxine-6-carbaldehyde | 1.8 g, 35% | CC1(OC(C2=C(O1)C=CC(=C2)C=O)=O)C | C11H10O4
